US08084237B2
Dodecahydro-3a,6,6,9a-tetramethylnaphtho[2,1-b]furan (occasionally referred to as “Ambroxan (trademark)”) is an aroma chemical with satisfactorily long-lasting properties that is produced via chemical conversion mainly from sclareol extracted from Salvia sclarea. FIG. 1 shows a process for producing dodecahydro-3a,6,6,9a-tetramethylnaphtho[2,1-b]furan from sclareol. As shown in FIG. 1, decahydro-2-hydroxy-2,5,5,8a-tetramethylnaphthaleneethanol and sclareolide (decahydro-3a,6,6,9a-tetramethylnaphtho[2,1-b]furan-2(1H)-one) are known as dodecahydro-3a,6,6,9a-tetramethylnaphtho[2,1-b]furan intermediates. Also, a cyclic ether compound (8α,13-oxido-12,13-dehydro-15,16-dinorlabdane) is known as a dodecahydro-3a,6,6,9a-tetramethylnaphtho[2,1-b]furan intermediate, although it is not shown in FIG. 1.

reactant | Dodecahydro-3a,6,6,9a-tetramethylnaphtho[2,1-b]furan | CC12OCCC1C1(CCCC(C1CC2)(C)C)C | C16H28O
reactant | Ambroxan | C[C@]12CCCC([C@@H]1CC[C@@]3([C@@H]2CCO3)C)(C)C | C16H28O
product | sclareol | C[C@]12CCCC([C@@H]1CC[C@@]([C@@H]2CC[C@](C)(C=C)O)(C)O)(C)C | C20H36O2
